US05068334
a) 4-Methyl-5,6,7,8-tetrahydro-cumarin-5-one
231.2 g (2.0 mol) of cyclohexan-1,3-dione (97%) are refluxed under nitrogen for 2.5 hours in 670 ml of absolute pyridine with 325.3 q (1.25×2.0 mol) of ethyl acetoacetate and 4.88 (0.02×2 mol) of 4-dimethylaminopyridine. Then 65.1 g (0.25×2.0 mol) of ethyl acetoacetate are again added and the mixture is boiled for a further 3 hours. The pyridine is then distilled off in vacuo and the oily residue is stirred while still warm with 100 ml of a mixture of cyclohexane/ethyl acetate (1:1). The reaction product which crystallises out is suction filtered and dried. Yield: 136.9 g (39.2% of theory) The mother liquor is freed from solvent in vacuo using a rotary evaporator and the oily residue is distilled in vacuo. The distillate solidifies into a white crystalline substance.

reactant | cyclohexan-1,3-dione | 2.0 mol, 231.2 g | C1(CC(CCC1)=O)=O | C6H8O2
reactant | ethyl acetoacetate | 2.0 mol | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | ethyl acetoacetate | 2.0 mol, 65.1 g | C(CC(=O)C)(=O)OCC | C6H10O3
solvent | pyridine | 670 ml | N1=CC=CC=C1 | C5H5N
catalyst | 4-dimethylaminopyridine | 2 mol | CN(C1=CC=NC=C1)C | C7H10N2
product | 4-Methyl-5,6,7,8-tetrahydro-cumarin-5-one | CC1=CC(OC=2CCCC(C12)=O)=O | C10H10O3
